US07713979B2
4-Chloro-N-piperidin-1-yl-butyramide
Add 4-chloro-butyryl chloride (5 mL, 43 mmol) to piperidin-1-ylamine (4.3 g, 43 mmol) in dichloromethane (100 mL) at room temp. Stir the reaction mixture at room temp for two hours. Add the reaction mixture into ice and saturated sodium bicarbonate solution. Extract the mixture with dichloromethane (100 mL). Wash the organic layer with saturated sodium bicarbonate solution (50 mL), dry with magnesium sulfate, filter and evaporate solvent under reduced pressure to obtain 5 g (57%) of the title compound as a white solid: Mass spectrum (ion spray): m/z=205.1 (M+H).

reactant | 4-chloro-butyryl chloride | 43 mmol, 5 mL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | piperidin-1-ylamine | 43 mmol, 4.3 g | N1(CCCCC1)N | C5H12N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-Chloro-N-piperidin-1-yl-butyramide | 5 g, 57% | ClCCCC(=O)NN1CCCCC1 | C9H17ClN2O
